US03992361
Sodium caprolactamate is prepared from sodium tert. butoxide and dissolved in caprolactam in the amount of 0.3 mol %. 0.3 Mol % of 2,2,4-trimethyl-3-oxopentanoyl-(4'-phenylazo)aniline is dissolved in the solution thus obtained. The polymerization product containing 89.5% of thecolored polyamide is obtained after heating to 180° C for 15 minutes; the polyamide contains 100% of the dye incorporated therein. Evenif the polymerization is carried out for 60 minutes, 96.5% of the polymer is formed which exhibits over 90% of the original color absorption. On thecontrary, if 2-benzoyl-2-(4'-dimethylaminophenylazo)-acetanilide is used (adye of the Hansa Yellow type), only 10-20% of the original color absorptionremains in the polymer under the same conditions.

reactant | sodium tert. butoxide | CC(C)([O-])C.[Na+]
reactant | caprolactam | C1(CCCCCN1)=O | C6H11NO
product | Sodium caprolactamate | C1CCC(=NCC1)[O-].[Na+] | InChI=1S/C6H11NO.Na/c8-6-4-2-1-3-5-7-6;/h1-5H2,(H,7,8);/q;+1/p-1
